US06200999B1
Ethyl 4-Bromomethyl-3-ethoxyisoxazole-5-carboxylate
Ethyl 3-Ethoxy-4-methylisoxazole-5-carboxylate (18 g, 91 mmol), NBS (17.5 g, 100 mmol), dibenzoyl peroxide (1 g, 4.1 mmol) in tetrachloromethane (500 mL) was boiled under reflux for 16 h. The mixture was cooled, filtered and concentrated in vacuo to afford the crude title compound (24.5 g, 97%).

reactant | Ethyl 3-Ethoxy-4-methylisoxazole-5-carboxylate | 91 mmol, 18 g | C(C)OC1=NOC(=C1C)C(=O)OCC | C9H13NO4
reactant | NBS | 100 mmol, 17.5 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | tetrachloromethane | 500 mL | ClC(Cl)(Cl)Cl | CCl4
catalyst | dibenzoyl peroxide | 4.1 mmol, 1 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | Ethyl 4-Bromomethyl-3-ethoxyisoxazole-5-carboxylate | 24.5 g, 97% | BrCC=1C(=NOC1C(=O)OCC)OCC | C9H12BrNO4
